US04102881
To a solution of 2.0 parts of 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine and 7.4 parts of ethyl orthoformate in 80 parts by volume of chloroform is added 2 parts of concentrated sulfuric acid with stirring. The mixture is stirred at room temperature for further 30 minutes, and neutralized with a saturated aqueous sodium bicarbonate solution. Chloroform layer is washed with water and dried over sodium sulfate, followed by distillation of the solvent. Recrystallization of the residue from acetone-n-hexane yields 8-chloro-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine as colorless flakes melting at 226°-227° C.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-chloro-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=CC=CC=C3)C1 | C16H11ClN4
